US05798354
(a) Synthesis of methyl 4-[3-(1-adamantyl)-4-(6-methoxyhexyloxy)phenylethynyl]benzoate
390 mg (0.8 mmol) of methyl 4-[3-(1-adamantyl)-4-(6-hydroxyhexyloxy)phenylethynyl]benzoate, 10 ml of toluene and 200 μl of a 50% sodium hydroxide solution were introduced into a round-bottomed flask. 20 mg (5.4 mmol) of tetrabutylammonium iodide and 100 μl (0.9 mmol) of dimethyl sulfate were added and stirring was carried out at room temperature for four hours. The reaction mixture was poured into water and extracted with ethyl acetate and the organic phase was separated by settling, dried over magnesium sulphate and evaporated.

reactant | methyl 4-[3-(1-adamantyl)-4-(6-hydroxyhexyloxy)phenylethynyl]benzoate | 0.8 mmol, 390 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCCCCCCO)C#CC2=CC=C(C(=O)OC)C=C2 | C32H38O4
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 0.9 mmol, 100 μl | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | tetrabutylammonium iodide | 5.4 mmol, 20 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | methyl 4-[3-(1-adamantyl)-4-(6-methoxyhexyloxy)phenylethynyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCCCCCCOC)C#CC2=CC=C(C(=O)OC)C=C2 | C33H40O4
